US07727989B2
c) 4-(1H-Benzimidazol-2-yl)-6-thiophen-3-yl-2H-pyridazin-3-one
30 mg of 6-thiophen-3-yl-2-(2-trimethylsilanylethoxymethyl)-4-[1-(2-trimethylsilanyl -ethoxymethyl)-1H-benzimidazol-2-yl]-2H-pyridazin-3-one is dissolved in a mixture of dichloromethane (1 ml) and trifluoroacetic acid (1 ml), 18 μl of ethanedithiol are added, and the resulting solution is stirred at room temperature for 18 hours. After the solvent has been distilled off, the crude product is purified by preparative RP-HPLC (0-100% acetonitrile (+0.05% formic acid) in water (+0.05% formic acid)).

reactant | 6-thiophen-3-yl-2-(2-trimethylsilanylethoxymethyl)-4-[1-(2-trimethylsilanyl -ethoxymethyl)-1H-benzimidazol-2-yl]-2H-pyridazin-3-one | 30 mg | S1C=C(C=C1)C=1C=C(C(N(N1)COCC[Si](C)(C)C)=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C27H38N4O3SSi2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethanedithiol | 18 μl | C(C)(S)S | C2H6S2
product | 4-(1H-Benzimidazol-2-yl)-6-thiophen-3-yl-2H-pyridazin-3-one | N1C(=NC2=C1C=CC=C2)C=2C(NN=C(C2)C2=CSC=C2)=O | C15H10N4OS
